US05235068
Reaction and post-treatment were carried out in the same manner as in Example 12, except that 5.27 g (0.065 mole) of 1-methylpyrrole and 4.4 g (0.05 mole) of isobutyric acid were substituent for the pyrrole and heptanoic acid, to obtain 6 g of 1-methyl-2-isobutyrylpyrrole.

reactant | 1-methylpyrrole | 0.065 mole, 5.27 g | CN1C=CC=C1 | C5H7N
reactant | isobutyric acid | 0.05 mole, 4.4 g | C(C(C)C)(=O)O | C4H8O2
reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | heptanoic acid | C(CCCCCC)(=O)O | C7H14O2
product | 1-methyl-2-isobutyrylpyrrole | 6 g, Yield: 80% | CN1C(=CC=C1)C(C(C)C)=O | C9H13NO
